US05879847
Into a three-necked flask, 40 ml of toluene, 9.9 g (60 mmol) of triethoxysilane and 0.018 mmol of diplatinum (0) tris(tetramethyldivinyldisiloxane)in toluene were placed, and 20 ml of a toluene solution containing 7.6 g of 4-(N-ethyl-N-phenylamino)styrene was added dropwise with stirring at room temperature. After the addition was completed, the mixture was stirred at 70° C. for 3 hours, and then the solvent was removed under reduced pressure to obtain oily pale yellow 4-(N-ethyl-N-phenylamino)-[2-(triethoxysilyl)ethyl]benzene in an amount of 7.8 g.

reactant | triethoxysilane | 60 mmol, 9.9 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
reactant | 4-(N-ethyl-N-phenylamino)styrene | 7.6 g | C(C)N(C1=CC=CC=C1)C1=CC=C(C=C)C=C1 | C16H17N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(N-ethyl-N-phenylamino)-[2-(triethoxysilyl)ethyl]benzene | C(C)N(C1=CC=CC=C1)C1=CC=C(C=C1)CC[Si](OCC)(OCC)OCC | C22H33NO3Si
